US06730695B2
A) (2S,4S)-1-(tert-Butoxycarbonyl)-4-hydroxy-2-pyrrolidinecarboxylic Acid
13.2 g of di-tert-butyl dicarbonate are added to a mixture of 4 g of (2S,4S)-4-hydroxypyrrolidine-2-carboxylic acid in 50 ml of a 10% solution of triethylamine in methanol, and the mixture is then refluxed for 45 minutes. The reaction mixture is concentrated under vacuum, the residue is taken up in 40 ml of water and acidified to pH=2 by addition of concentrated HCl solution, the resulting mixture is extracted with EtOAc, the organic phase is dried over Na2SO4 and the solvent is evaporated off under vacuum. 7.5 g of the expected product are obtained.

reactant | di-tert-butyl dicarbonate | 13.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (2S,4S)-4-hydroxypyrrolidine-2-carboxylic acid | 4 g | O[C@H]1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | (2S,4S)-1-(tert-Butoxycarbonyl)-4-hydroxy-2-pyrrolidinecarboxylic Acid | 7.5 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)O)C(=O)O | C10H17NO5
